US05705531
A mixture of 2.00 g of (1S,3aS,5S,7aR)-1-hydroxymethyl-5-phenyl-7a-methylperhydroinden-3a-ol, intermediate in the synthesis of (II-ag) and 0.85 g of 5% Rhodium on alumina powder in 30 ml of methanol was hydrogenated at room temperature at 60 psi. in a Parr apparatus, for 4 hrs. The mixture was then filtered through celite and the solvent was evaporated under reduced pressure to give 1.94 g of (1S,3aS,5S,7aR)-1-hydroxymethyl-5-cyclohexyl-7a-methylperhydroinden-3a-ol as a white solid.

reactant | (1S,3aS,5S,7aR)-1-hydroxymethyl-5-phenyl-7a-methylperhydroinden-3a-ol | 2.00 g | OC[C@H]1CC[C@@]2(C[C@H](CC[C@]12C)C1=CC=CC=C1)O | C17H24O2
solvent | methanol | 30 ml | CO | CH4O
catalyst | Rhodium on alumina | 0.85 g | [Rh] | Rh
product | (1S,3aS,5S,7aR)-1-hydroxymethyl-5-cyclohexyl-7a-methylperhydroinden-3a-ol | 1.94 g | OC[C@H]1CC[C@@]2(C[C@H](CC[C@]12C)C1CCCCC1)O | C17H30O2
